US07687638B2
2-(2-Chloro-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Bis(pinacolato)diboron (1.6 g, 6.3 mmol), 1-bromo-2-chloro-5-fluorobenzene (1.2 g, 5.7 mmol), potassium acetate (1.69 g, 17.2 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (140 mg, 0.03 mmol) were combined in a flask purged with nitrogen. DMF (20 mL) was added, and the reaction stirred at 80° C. under nitrogen for 18 h. The solution was diluted with EtOAc (60 mL) and washed with brine (2×). Organics were dried (MgSO4) and concentrated in vacuo. Purification by silica gel chromatography (20% EtOAc/hexanes) gave 920 mg (63%) of the title compound as a clear oil. 1H NMR (400 MHz, CDCl3): δ 7.37 (dd, 1H, J=8.4, 3.6 Hz), 7.30 (dd, 1H, J=8.4, 4.4 Hz), 7.00-7.06 (m, 1H), 1.37 (s, 12H).

reactant | Bis(pinacolato)diboron | 6.3 mmol, 1.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1-bromo-2-chloro-5-fluorobenzene | 5.7 mmol, 1.2 g | BrC1=C(C=CC(=C1)F)Cl | C6H3BrClF
reactant | potassium acetate | 17.2 mmol, 1.69 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.03 mmol, 140 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2-Chloro-5-fluoro-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 920 mg, 63% | ClC1=C(C=C(C=C1)F)B1OC(C(O1)(C)C)(C)C | C12H15BClFO2
